US04500636
To 20 ml of thionyl chloride was added 25 g of 2-benzoyl-5-nitrobenzoic acid. The mixture was heated and stirred for 3 hours on the oil bath kept at a temperature of 60° C. Excess thionyl chloride was distilled away under reduced pressure, and 27.5 g of 3-chloro-4-phenyl-6-nitrophthalide was obtained as a brown oily substance. Separately, 4.48 g (0.04 mol.) of potassium tert-butoxide and 5.34 g (0.03 mol.) of 1-phenyl-5-mercaptotetrazole were added to 200 ml of dried dimethylformamide, and stirred for 20 minutes at room temperature. The resulting mixture was cooled to 5° C. and thereto, was added dropwise gradually the previously prepared solution containing 9.0 g (0.03 mol.) of 3-chloro-3-phenyl 6-nitrophthalide in 75 ml of dried dimethylformamide as the mixture was maintained at 5° C. After the conclusion of the dropwise addition, the reaction mixture was stirred for 30 minutes at 5° C. and further, for 2 hours at room temperature. Thereto, 200 ml of a saturated aqueous solution of ammonium chloride was added. The reaction mixture was extracted with ethyl acetate repeatedly. The extract was washed with water, and the resulting organic layer was dried over anhydrous sodium sulfate. Sodium sulfate was filtered off with suction, and the filtrate was concentrated to yield 9.2 g of crude crystals. These crude crystals were separated and purified by flash column chromatography (silica gel: 400 g, eluate: hexane-ethyl acetate (3:1 by volume) mixture). Thus, the intended compound, 3-(1-phenyltetrazole-5-ylthio)-3-phenyl-6-nitrophthalide (4), was obtained. It was recrystallized from an ethyl acetate-hexane mixture. Yield 5.5 g, Melting Point 176° to 179° C.

reactant | 2-benzoyl-5-nitrobenzoic acid | 25 g | C(C1=CC=CC=C1)(=O)C1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C14H9NO5
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-chloro-4-phenyl-6-nitrophthalide | 27.5 g | ClC1OC(=O)C2=CC(=CC(=C12)C1=CC=CC=C1)[N+](=O)[O-] | C14H8ClNO4
